US04092311
Preparation of Intermediate 5-methyl-3-(m-nitrophenyl)-6-(1-methylhydrazino)pyridazine
To an 8.0 g. portion of 5-methyl-6-(m-nitrophenyl)-3-chloropyridazine in 100 ml. of butanol is added 4.4 g. of methyl hydrazine. This reaction mixture is heated at reflux overnight and then cooled in an ice bath. The product which forms as a precipitate is collected by filtration, washed with butanol, water, dried and recrystallized from ethanol, m.p. 173°-174° C.

reactant | 5-methyl-6-(m-nitrophenyl)-3-chloropyridazine | CC=1C=C(N=NC1C1=CC(=CC=C1)[N+](=O)[O-])Cl | C11H8ClN3O2
reactant | methyl hydrazine | CNN | CH6N2
reactant | butanol | C(CCC)O | C4H10O
product | 5-methyl-3-(m-nitrophenyl)-6-(1-methylhydrazino)pyridazine | CC=1C=C(N=NC1N(N)C)C1=CC(=CC=C1)[N+](=O)[O-] | C12H13N5O2
